US04593037
1-(4-Oxo-4-[4-fluorophenyl]butyl)-3-(3-methoxyphenyl)piperidine
A mixture of 1.9 g (0.01 mole) of 3-(3-methoxyphenyl)piperidine, 4.0 g (3.3 ml, 0.02 mole) of 4-oxo-4-(4-fluorophenyl)butyl chloride, 27.6 g (0.20 mole) of potassium carbonate and 75 ml of methyl isobutyl ketone was heated under reflux for ca. 40 hours. The reaction mixture was then poured onto ice-water and the resulting mixture was extracted with ethyl acetate. The combined extracts were washed with water, followed by saturated sodium chloride solution, and then they were dried and evaporated in vacuo. The residue was chromatographed on 250 ml of silica gel, eluting with chloroform/metanol (95:5). The appropriate fractions were combined and evaporated in vacuo to give 1.4 g of the title compound as an amber oil (39% yield).

reactant | 3-(3-methoxyphenyl)piperidine | 0.01 mole, 1.9 g | COC=1C=C(C=CC1)C1CNCCC1 | C12H17NO
reactant | 4-oxo-4-(4-fluorophenyl)butyl chloride | 0.02 mole, 3.3 ml, 4.0 g | O=C(CCCCl)C1=CC=C(C=C1)F | C10H10ClFO
reactant | potassium carbonate | 0.20 mole, 27.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl isobutyl ketone | 75 ml | C(C(C)C)C(=O)C | C6H12O
product | 1-(4-Oxo-4-[4-fluorophenyl]butyl)-3-(3-methoxyphenyl)piperidine | 1.4 g, 39% yield | O=C(CCCN1CC(CCC1)C1=CC(=CC=C1)OC)C1=CC=C(C=C1)F | C22H26FNO2
